US09290490B2
5-Fluoro-2,4-dichloropyrimidine (5 g, 29.9 mmol), cyclopropyl boronic acid (2.57 g, 29.9 mmol), potassium phosphate tribasic (15.89 g, 74.9 mmol) and PdCl2(dppf)-dichloromethane adduct (1.22 g, 1.50 mmol) were added to a dry flask. The flask was degassed with argon and then tetrahydrofuran (150 ml) was added. The reaction mixture was degassed with argon for five minutes, and then heated to 67° C. After 12 hours, the reaction mixture was cooled to room temperature, diluted with ethyl acetate (1000 mL), washed with brine, dried over magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography on silica gel (EtOAc/hexane gradient) to afford 2-chloro-4-cyclopropyl-5-fluoropyrimidine. MS ESI: [M+H]+ m/z 172.9. 1H NMR (500 MHz, DMSO-d6) 8.66 (d, J=2.0 Hz, 1H); 2.34-2.26 (m, 1H); 1.26-1.20 (m, 2H); 1.12-1.08 (m, 2H).

reactant | 5-Fluoro-2,4-dichloropyrimidine | 29.9 mmol, 5 g | FC=1C(=NC(=NC1)Cl)Cl | C4HCl2FN2
reactant | cyclopropyl boronic acid | 29.9 mmol, 2.57 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate tribasic | 74.9 mmol, 15.89 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | PdCl2(dppf) dichloromethane | 1.50 mmol, 1.22 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 2-chloro-4-cyclopropyl-5-fluoropyrimidine | ClC1=NC=C(C(=N1)C1CC1)F | C7H6ClFN2
